Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.24673462233
[C:10]([H:11])[H:12].[H:1][O:9]/[C:7](=[C:5](/[C:3](=[O:2])[H:4])[H:6])[H:8]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-2.4536057694
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.53084171461
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],2.00115534021
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:9][C:10]([H:11])[H:12].[H:8],4.22551551073
[H:12].[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.09939257283
[H:1][C:2]=[C:4]([H:5])[C:10]([H:11])([H:12])[H:13].[H:3][C:8](=[C:6][H:7])[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-5.19170701513
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]=[C:9]([H:10])[H:11].[O:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-6.16482811306
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](/[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],1.06316134156
[C:1]([H:6])([H:7])[C:8]#[C:9][H:10].[C:2]([H:3])([H:4])=[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-0.60040517393
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-6.313681805630001
[C:5](\[H:6])(=[C:7]\[O:8][H:9])[O:10][H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11],0.12751488497000002
[O:1][C:2]([H:3])([H:4])[C:5]([C:6](=[O:7])[H:8])=[C:9]([H:10])[H:11]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([C:6](=[O:7])[H:8])=[C:9]([H:10])[H:11],1.1445958983
[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],-2.65088787197
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:5][C:6][O:7][C:8]([H:9])[H:10].[H:4],2.17914177027
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:13][H:14],3.383114922
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:5],2.9041384532700003
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[C:4])[O:12][H:13],4.5431263155
[C:8]([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-5.88852005086
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.02287211116
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],1.93879051513
[C:3]#[C:4][C:5][O:6][H:7].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]#[C:5][O:6][H:7],-9.52646983899
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12],1.1077864645200002
[C:3](=[C:4](\[H:5])[O:6][H:7])\[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.57165856246
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.49975701046
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.36820961627
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7][H:8])[C:9]([H:10])[H:11]>>[H:11].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7][H:8])[C:9][H:10],5.03462393022
[C:7]=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-2.74838789524
[O:1]=[C:2]([H:3])/[C:4]([C:5])=[C:6](\[H:7])[O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]1[C:5][C@:6]1([H:7])[O:8][H:9],-0.926888621942
